* LM1117_N_3P3 - ngspice compatible, params moved to header
.SUBCKT LM1117_N_3P3_TRANS IN OUT GND_0 GND_1
+ PARAMS: psrr=177.83u uvlo=1.5 ilim=1.2 pole=2k zero=300k rinp=1e7 ttrn=180u
+ rout=1.5e-3 vref=1.25 ehys=0.11 drop=350m uhys=0.1

R_R7         GND_0 GND_1  1m
R_R6         N242982 VYY  10
C_U1_C2         0 U1_N05382  1n
E_U1_ABM4         U1_N09035 0 VALUE { V(U1_N05348)
+ * (ABS(V(VZZ)) + 1e-6)
+ / (ABS(V(N222934)) + 1e-6) }
C_U1_C1         0 U1_N05348  {1e-6*sqrt(ttrn)} IC=0
R_U1_R1         GND_0 U1_N05348  1G
X_U1_U2         IN U1_N352510 U1_N3524503 VIN_OK COMPHYS_BASIC_GEN
+ PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_U1_E1         U1_DROP 0 TABLE { V(LOAD, 0) }
+ ( (0,1) (100m,1.1) (500m,1.14) (800m,1.18) )
V_U1_V3         U1_N3524503 0 {uhys}
R_U1_R5         U1_N09745 N222524  10
V_U1_V4         U1_N352510 0 {uvlo}
R_U1_R3         U1_N08164 U1_N05348  {3.333e5*sqrt(ttrn)}
C_U1_C3         0 N222524  1n
R_U1_R2         GND_0 U1_N05382  1G
E_U1_ABM6         U1_N08164 0 VALUE { (V(VIN_OK) > 0.6) * {vref} }
E_U1_ABM5         U1_N09745 0 VALUE { MIN(V(U1_N05382),
+ MAX(V(IN) - V(U1_DROP), 0)) }
R_U1_R4         U1_N09035 U1_N05382  10
X_F1    N359447 VZZ N222604 VYY LM1117_N_3P3_F1
R_R8         VIN_OK N398183  20
C_C3         0 VYY  1n
R_R5         N359447 VYY  {rout}
C_C4         0 N398183  1u
E_ABM1         N242982 0 VALUE { MIN(V(VXX), (V(VZZ) + (ilim*rout))) }
X_U2         0 OUT d_d
R_R1         VXX N222604  {rinp}
R_R2         N222524 VXX  {psrr*rinp}
R_R3         GND_0 N222934  500k
X_S2    N398183 0 IN N222604 LM1117_N_3P3_S2
C_C1         VXX N222604  {1/(6.28*rinp*pole)}
R_R4         N222934 OUT  820k
E_ABM2         LOAD 0 VALUE { I(V_Vload) }
C_C2         VXX N222524  {1/(6.28*psrr*rinp*zero)}
C_C5         0 N222604  36n
V_Vload         VZZ OUT 0Vdc

.ENDS LM1117_N_3P3_TRANS

*$
.subckt LM1117_N_3P3_F1 1 2 3 4
F_F1         3 4 VF_F1 1
VF_F1         1 2 0V
.ends LM1117_N_3P3_F1

*$
.subckt LM1117_N_3P3_S2 1 2 3 4
S_S2         3 4 1 2 _S2
RS_S2        1 2 1G
.MODEL _S2 SW Roff=10k Ron=160 Voff=0.0 Von=1.0
.ends LM1117_N_3P3_S2

*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5
EIN INP1 INM1 INP INM 1
EHYS INP1 INP2 VALUE { (V(1) > {VTHRESH}) * (-V(HYS)) }
EOUT OUT 0 VALUE { (V(INP2) > V(INM1)) * {VDD} + (V(INP2) <= V(INM1)) * {VSS} }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN

*$
.SUBCKT D_D1 1 2
D1 1 2 DD1
.MODEL DD1 D( IS=1e-15 TT=10p Rs=0.05 N=.1 )
.ENDS D_D1

*$
.subckt d_d 1 2
d1 1 2 dd
.model dd d
+ is=1e-015
+ n=0.01
+ tt=1e-011
.ends d_d